US08614209B2
5-Pyridin-4-yl-thiophene-3-carboxylic acid ethyl ester
5-Bromo-thiophene-3-carboxylic acid ethyl ester (5.26 mmol), 4-pyridylboronic acid (5.26 mmol), caesium carbonate (7.9 mmol) and palladium (0) tetrakis-triphenylphosphine (0.53 mmol) were dissolved in a mixture of water (10 mL), IMS (20 mL) and DME (50 mL). The reaction mixture was heated by microwave irradiation to 140° C. for 10 minutes, and then ether (100 mL) and water (20 mL) were added. The organic solution was washed with water, dried with anhydrous magnesium sulfate, filtered and the solvent evaporated to give brown oil. The residue was purified by flash chromatography on silica. The fractions containing the desired product were concentrated under vacuum to give the title compound (0.035 g) as an off-white solid. LCMS m/z 234.04 [M+H]+ R.T.=2.10 min. (Analytical Method 5).

reactant | 5-Bromo-thiophene-3-carboxylic acid ethyl ester | 5.26 mmol | C(C)OC(=O)C1=CSC(=C1)Br | C7H7BrO2S
reactant | 4-pyridylboronic acid | 5.26 mmol | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | caesium carbonate | 7.9 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | water | 10 mL | O | H2O
solvent | DME | 50 mL | COCCOC | C4H10O2
solvent | water | 20 mL | O | H2O
product | 5-Pyridin-4-yl-thiophene-3-carboxylic acid ethyl ester | 0.035 g | C(C)OC(=O)C1=CSC(=C1)C1=CC=NC=C1 | C12H11NO2S
